US04675321
(a) Ethyl 4-(3-nitrophenyl)-3,4-dihydropyrimidine-2(1H)one-5-carboxylate (1a)
A mixture of urea (52 mmol), ethyl acetoacetate (78 mmol) and m-nitrobenzaldehyde (49 mmol) in absolute ethanol (30 mL) and concentrated hydrochloric acid (10 drop) was heated to reflux for 4.5 hours. Upon cooling to -20° C., a crude product crystallized. The crude product was recrystallized from isopropanol to afford the desired product as a white solid (m.p. 230.5°-233° C.).

reactant | urea | 52 mmol | NC(=O)N | CH4N2O
reactant | ethyl acetoacetate | 78 mmol | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | m-nitrobenzaldehyde | 49 mmol | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 10 drop | Cl | ClH
product | Ethyl 4-(3-nitrophenyl)-3,4-dihydropyrimidine-2(1H)one-5-carboxylate | [N+](=O)([O-])C=1C=C(C=CC1)C1NC(NC=C1C(=O)OCC)=O | C13H13N3O5
